US04266069
In a 200 ml round-botton flask is placed 15.03 g (~43.7 mmol) of ethyl 2-(2-fluoro-4-biphenylyl)-2-methylmalonate, 62 ml of glacial acetic acid, and 22 ml of 6 N aqueous hydrochloric acid. The mixture is refluxed under nitrogen for 24 hours. On cooling to room temperature, the solution is diluted with 250 ml of water and the mixture is extracted with 4×50 ml of methylene chloride. The combined extracts are washed with 2×100 ml of water and then with 8×40 ml (0.2 N) of aqueous potassium hydroxide solution. Extracts 1-4 are combined, acidified to pH <1 with concentrated hydrochloric acid, and the resulting solution is extracted with 3×50 ml of methylene chloride. The organic extracts are dried over sodium sulfate and concentrated in vacuo to give 7.13 g (38.8% overall) crude flurbiprofen. Extract 5 is backwashed with 3×15 ml methylene chloride, acidified with concentrated hydrochloric acid, and the resulting mixture is extracted with 3×20 ml methylene chloride to give 1.84 g (10.0%) crude flurbiprofen. Fractions 6-8 are combined and the pH is adjusted to ~9.0. After washing with 3×30 ml methylene chloride, the aqueous is acidified with concentrated hydrochloric acid and is then extracted with 3×50 ml of methylene chloride. Drying and concentration of the extracts gives 0.53 g (4.0%) crude flurbiprofen Ib.

reactant | ethyl 2-(2-fluoro-4-biphenylyl)-2-methylmalonate | ~43.7 mmol, 15.03 g | FC1=C(C=CC(=C1)C(C(=O)OCC)(C(=O)[O-])C)C1=CC=CC=C1
reactant | acetic acid | 62 ml | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 6 N, 22 ml | Cl | ClH
solvent | water | 250 ml | O | H2O
product | flurbiprofen | 7.13 g, 38.8% | CC(C=1C=CC(=C(C1)F)C=2C=CC=CC2)C(=O)O | C15H13FO2
